US07541372B2
5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-ylamine
To a suspension of 6-aminonicotinic acid (191 mg, 1.38 mmol) in chlorobenzene (2 mL) was added 1,1′-carbonyl-diimidazole (224 mg, 1.38 mmol) and the resulting mixture stirred for 2 h at 90° C. After the suspension was cooled to ambient temperature 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide (200 mg, 0.92 mmol) was added and stirred for 1 h at 90° C. After the reaction mixture was cooled to ambient temperature phosphorous oxychloride (0.84 mL, 9.20 mmol) was added and stirring was continued for 4 h at 90° C. The cooled reaction mixture was poured carefully onto a mixture of ethyl acetate (20 mL) and aqueous sodium carbonate (saturated, 20 mL) and was stirred for 1 h at ambient temperature. The aqueous layer was separated and extracted with ethyl acetate (20 mL) and the combined organic layers were washed with aqueous sodium carbonate (saturated). Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane:methanol=40:40:20:0 to 0:75:20:5) afforded the title compound (27 mg, 9%) as a white solid. MS: m/e=320.0 [M+H]+.

reactant | 6-aminonicotinic acid | 1.38 mmol, 191 mg | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 1,1′-carbonyl-diimidazole | 1.38 mmol, 224 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methyl-3-phenyl-isoxazole-4-carboxylic acid hydrazide | 0.92 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C(=O)NN | C11H11N3O2
reactant | phosphorous oxychloride | 9.20 mmol, 0.84 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | chlorobenzene | 2 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-ylamine | 27 mg, 9% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C=1C=CC(=NC1)N | C17H13N5O2
